US07635700B2
To a stirred solution of (3-fluoro-4-methyl-phenyl)-acetic acid (0.25 g, 1.5 mmol) in DMF (8 mL) in a 40° C. oil bath, was added 1.1′ carbonyldiimidazole (0.27 g, 1.6 mmol) and stirred for one hour. To the mixture, 3-(5-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride (0.50 g, 1.5 mmol) was added, and the mixture was stirred for 15 minutes. The solvent was evaporated, and the residue was purified by flash column chromatography (Silica gel, methanol/methylene chloride 4%/96%) to give N-[3-(2,6-Dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-5-ylmethyl]-2-(3-fluoro-4-methyl-phenyl)-acetamide as a yellow solid (500 mg, 74% yield); HPLC, Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 10/90 CH3CN/0.1% H3PO4, grad. to 95/5 in 5 min, kept 5 min, 6.10 min (99.3%); mp, 264-266° C.; 1HNMR (DMSO-d6) 2.15-2.20 (m, 4H, CHH and CH3Ar), 2.57-2.91 (m, 6H, CHCH2, CH3), 3.51 (s, 2H, ArCH2), 4.73-4.78 (m, 2H, CH2NH), 5.23 (dd, J=6, 11 Hz, 1H, CH), 6.99-7.72 (m, 6H, Ar), 8.34 (t, J=6 Hz, 1H, CH2NH), 11.01 (s, 1H, NH; 13C NMR (DMSO-d6) δ 13.76 (d, JC-F=3 Hz), 20.73, 23.27, 30.59, 41.60, 41.72, 56.48, 115.43 (d, JC-F=22 Hz), 117.69, 121.98 (d, JC-F=17 Hz), 124.82 (d, JC-F=7 Hz), 124.83, 125.59, 131.23 (d, JC-F=5 Hz), 133.80, 136.12 (d, JC-F=8 Hz), 140.64, 148.44, 154.80, 160.38 (d, JC-F=242 Hz), 160.91, 169.49, 169.90, 172.58. LCMS MH=451; Anal Calcd For C24H23N4O4F: C, 63.99; H, 5.15; N, 12.44; F, 4.22. Found: C, 63.61; H, 5.19; N, 12.33; F, 4.20.

reactant | (3-fluoro-4-methyl-phenyl)-acetic acid | 1.5 mmol, 0.25 g | FC=1C=C(C=CC1C)CC(=O)O | C9H9FO2
reactant | 1.1′ carbonyldiimidazole | 1.6 mmol, 0.27 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-(5-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride | 1.5 mmol, 0.50 g | Cl.NCC1=C2C(N(C(=NC2=CC=C1)C)C1C(NC(CC1)=O)=O)=O
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | N-[3-(2,6-Dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-5-ylmethyl]-2-(3-fluoro-4-methyl-phenyl)-acetamide | 500 mg, 74% yield | O=C1NC(CCC1N1C(=NC2=CC=CC(=C2C1=O)CNC(CC1=CC(=C(C=C1)C)F)=O)C)=O | C24H23FN4O4
